US05183925
8.65 g of bromophenol and 8.75 g of 4-bromobutyric acid ethyl ester are dissolved in 120 ml of dimethylformamide, mixed with 32.6 g of cesium carbonate and stirred for 2 days at room temperature. The reaction mixture is filtered, the solvent is distilled off in a vacuum and the residue is distilled in a bulb tube at 180° C./0.4 mbar. 11 g of 4-(2-bromophenoxy)butyric acid ethyl ester is obtained as a colorless oil.

reactant | bromophenol | 8.65 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | 4-bromobutyric acid ethyl ester | 8.75 g | C(C)OC(CCCBr)=O | C6H11BrO2
reactant | cesium carbonate | 32.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 4-(2-bromophenoxy)butyric acid ethyl ester | 11 g | C(C)OC(CCCOC1=C(C=CC=C1)Br)=O | C12H15BrO3
